US06613942B1
4-Formylnaphthalene Acrylic Acid (Step C):
A suspension of ethyl 4-formylnaphthalene acrylate (391 mg, 1.53 mmol), sodium carbonate (195 mg, 1.84 mmol) in water (10 mL) was refluxed for 16 hr. The cold solution was filtered, and the filtrate was acidified with conc. hydrochloric acid. The precipitate was collected by suction and dried for 48 hr in vacuum to give the product (325 mg, 94%) as a yellow solid.

reactant | ethyl 4-formylnaphthalene acrylate | 1.53 mmol, 391 mg | C(=O)C1=CC=C(C2=CC=CC=C12)C=CC(=O)OCC | C16H14O3
reactant | sodium carbonate | 1.84 mmol, 195 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 mL | O | H2O
product | 4-Formylnaphthalene Acrylic Acid | 325 mg, 94% | C(=O)C1=CC=C(C2=CC=CC=C12)C=CC(=O)O | C14H10O3
